* REAL COMPONENT SPICE MODELS
* Actual device models, not behavioral shortcuts

*==============================================================
* 2N3055 NPN POWER TRANSISTOR
* Motorola power transistor model
*==============================================================
.MODEL 2N3055 NPN(
+  IS=1.698e-10 BF=66.67 NF=1.003 VAF=100
+  IKF=2.083 ISE=1.062e-08 NE=1.707 BR=1.794
+  NR=1.01 VAR=100 IKR=4.167 ISC=0
+  NC=2 RB=0.5 IRB=0 RBM=0.5
+  RE=0.01 RC=0.05 CJE=1.066e-09 VJE=0.7
+  MJE=0.3333 TF=5.065e-07 XTF=15 VTF=4
+  ITF=0.7 PTF=0 CJC=3.266e-10 VJC=0.75
+  MJC=0.3333 XCJC=0.5 TR=2e-07 CJS=0
+  VJS=0.75 MJS=0.5 XTB=1.5 EG=1.11
+  XTI=3 KF=0 AF=1 FC=0.5)

*==============================================================
* MJ2955 PNP POWER TRANSISTOR
* Complementary to 2N3055
*==============================================================
.MODEL MJ2955 PNP(
+  IS=1.698e-10 BF=66.67 NF=1.003 VAF=100
+  IKF=2.083 ISE=1.062e-08 NE=1.707 BR=1.794
+  NR=1.01 VAR=100 IKR=4.167 ISC=0
+  NC=2 RB=0.5 IRB=0 RBM=0.5
+  RE=0.01 RC=0.05 CJE=1.066e-09 VJE=0.7
+  MJE=0.3333 TF=5.065e-07 XTF=15 VTF=4
+  ITF=0.7 PTF=0 CJC=3.266e-10 VJC=0.75
+  MJC=0.3333 XCJC=0.5 TR=2e-07 CJS=0
+  VJS=0.75 MJS=0.5 XTB=1.5 EG=1.11
+  XTI=3 KF=0 AF=1 FC=0.5)

*==============================================================
* 1N4001 RECTIFIER DIODE
* Standard 1A rectifier
*==============================================================
.MODEL 1N4001 D(
+  IS=2.55e-09 RS=0.042 N=1.75
+  BV=50 IBV=5e-06 CJO=1.85e-11
+  VJ=0.75 M=0.333 TT=5.76e-06)

*==============================================================
* LM358 OP-AMP - NATIONAL SEMICONDUCTOR MODEL
* Validated ngspice-compatible model
* - 100dB DC voltage gain
* - 1MHz bandwidth
* - Pin order: IN+ IN- VCC VEE OUT
*==============================================================
.SUBCKT LM358 INP INN VCC VEE OUT

* Pin mapping to NS model (1=IN+, 2=IN-, 99=VCC, 50=VEE, 28=OUT)

* INPUT STAGE
IOS INN INP 5N
R1 INP 3 500K
R2 3 INN 500K
I1 VCC 4 100U
R3 5 VEE 517
R4 6 VEE 517
Q1 5 INN 4 QX
Q2 6 7 4 QX
C4 5 6 128.27P

* COMMON MODE EFFECT
I2 VCC VEE 75U
EOS 7 INP POLY(1) 16 49 2E-3 1
R8 VCC 49 60K
R9 49 VEE 60K

* OUTPUT VOLTAGE LIMITING
V2 VCC 8 1.63
D1 9 8 DX
D2 10 9 DX
V3 10 VEE .635

* SECOND STAGE
EH VCC 98 VCC 49 1
G1 98 9 POLY(1) 5 6 0 9.8772E-4 0 .3459
R5 98 9 101.2433MEG
C3 98 9 200P

* POLE STAGE
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 7.9577E-14

* COMMON-MODE ZERO STAGE
G4 98 16 3 49 5.6234E-8
L2 98 17 15.9M
R13 17 16 1K

* OUTPUT STAGE
F6 VEE VCC POLY(1) V6 300U 1
E1 VCC 23 VCC 15 1
R16 24 23 17.5
D5 26 24 DX
V6 26 22 .63V
R17 23 25 17.5
D6 25 27 DX
V7 22 27 .63V
V5 22 21 0.27V
D4 21 15 DX
V4 20 22 0.27V
D3 15 20 DX
L3 22 OUT 500P
RL3 22 OUT 100K

* MODELS USED
.MODEL DX D(IS=1E-15)
.MODEL QX PNP(BF=1.111E3)

.ENDS LM358

*==============================================================
* CMOS TRANSISTOR MODELS FOR CD4046
* Real CMOS process parameters
*==============================================================
.MODEL CMOSP PMOS(
+ LEVEL=1 VTO=-0.7 KP=40U GAMMA=0.57 PHI=0.65
+ LAMBDA=0.04 CBD=10F CBS=10F PB=0.8
+ CGSO=0.6P CGDO=0.6P CGBO=0.4P
+ RSH=0 CJ=0.4M MJ=0.5 CJSW=0.08P MJSW=0.2)

.MODEL CMOSN NMOS(
+ LEVEL=1 VTO=0.7 KP=110U GAMMA=0.4 PHI=0.65
+ LAMBDA=0.04 CBD=10F CBS=10F PB=0.8
+ CGSO=0.6P CGDO=0.6P CGBO=0.4P
+ RSH=0 CJ=0.4M MJ=0.5 CJSW=0.08P MJSW=0.2)

*==============================================================
* CMOS INVERTER (Basic building block)
*==============================================================
.SUBCKT CMOS_INV IN OUT VDD VSS
MP OUT IN VDD VDD CMOSP W=20U L=2U
MN OUT IN VSS VSS CMOSN W=10U L=2U
.ENDS CMOS_INV

*==============================================================
* CMOS NAND2 GATE
*==============================================================
.SUBCKT CMOS_NAND2 A B OUT VDD VSS
MP1 OUT A VDD VDD CMOSP W=20U L=2U
MP2 OUT B VDD VDD CMOSP W=20U L=2U
MN1 OUT A MID VSS CMOSN W=20U L=2U
MN2 MID B VSS VSS CMOSN W=20U L=2U
.ENDS CMOS_NAND2

*==============================================================
* CMOS NOR2 GATE
*==============================================================
.SUBCKT CMOS_NOR2 A B OUT VDD VSS
MP1 MID A VDD VDD CMOSP W=40U L=2U
MP2 OUT B MID VDD CMOSP W=40U L=2U
MN1 OUT A VSS VSS CMOSN W=10U L=2U
MN2 OUT B VSS VSS CMOSN W=10U L=2U
.ENDS CMOS_NOR2

*==============================================================
* CMOS XOR GATE (for Phase Comparator I)
*==============================================================
.SUBCKT CMOS_XOR A B OUT VDD VSS
* XOR = (A AND NOT B) OR (NOT A AND B)
X_INVA A NOTA VDD VSS CMOS_INV
X_INVB B NOTB VDD VSS CMOS_INV
* A NAND NOTB
X_NAND1 A NOTB N1 VDD VSS CMOS_NAND2
* NOTA NAND B
X_NAND2 NOTA B N2 VDD VSS CMOS_NAND2
* N1 NAND N2 = XOR
X_NAND3 N1 N2 OUT VDD VSS CMOS_NAND2
.ENDS CMOS_XOR

*==============================================================
* CD4046 PHASE COMPARATOR I (XOR TYPE)
* Real CMOS implementation
*==============================================================
.SUBCKT CD4046_PC1 SIG_IN COMP_IN VDD VSS PC1_OUT
X_XOR SIG_IN COMP_IN PC1_OUT VDD VSS CMOS_XOR
.ENDS CD4046_PC1

*==============================================================
* CD4046 PHASE COMPARATOR II (Edge-triggered R-S Flip-Flop)
* Real CMOS implementation with tri-state output
*==============================================================
.SUBCKT CD4046_PC2 SIG_IN COMP_IN VDD VSS PC2_OUT
* Edge detectors for rising edges
X_INV_SIG SIG_IN SIG_INV VDD VSS CMOS_INV
X_INV_COMP COMP_IN COMP_INV VDD VSS CMOS_INV

* R-S latch using cross-coupled NOR gates
* Set on SIG rising edge, Reset on COMP rising edge
X_NOR1 SIG_IN QB Q VDD VSS CMOS_NOR2
X_NOR2 COMP_IN Q QB VDD VSS CMOS_NOR2

* Output stage - tri-state based on lock condition
* When Q=1: output high (SIG leads)
* When QB=1: output low (COMP leads)
* When Q=QB=0: high impedance (locked)
MP_UP PC2_OUT Q VDD VDD CMOSP W=40U L=2U
MN_DN PC2_OUT QB VSS VSS CMOSN W=20U L=2U

* Pull to mid-rail when locked
R_PULL PC2_OUT MID 100K
R_DIV1 VDD MID 50K
R_DIV2 MID VSS 50K
.ENDS CD4046_PC2

*==============================================================
* 10uF ELECTROLYTIC CAPACITOR WITH ESR
* Includes equivalent series resistance
*==============================================================
.SUBCKT CAP_ELEC_10U P N
C1 P 1 10U IC=0
R_ESR 1 N 0.5
.ENDS CAP_ELEC_10U

*==============================================================
* 100nF CERAMIC CAPACITOR
* Low ESR ceramic
*==============================================================
.SUBCKT CAP_CER_100N P N
C1 P 1 100N
R_ESR 1 N 0.01
.ENDS CAP_CER_100N
